US06894042B2
2-(Diethoxymethyl)-1-benzofuran-6-carboxylic acid (264 mg, 1.0 mmol) is coupled with (R)-3-aminoquinuclidine dihydrochloride (219 mg, 1.1 mmol) and salt made according to Method A with non-critical changes to afford 286 mg (70%) of N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-2-(diethoxymethyl)-1-benzofuran-6-carboxamide hydrochloride as a white solid. HRMS (FAB) calcd for C21H28N2O4+H: 373.2127, found 373.2121 (M+H)+.

reactant | 2-(Diethoxymethyl)-1-benzofuran-6-carboxylic acid | 1.0 mmol, 264 mg | C(C)OC(C=1OC2=C(C1)C=CC(=C2)C(=O)O)OCC | C14H16O5
reactant | (R)-3-aminoquinuclidine dihydrochloride | 1.1 mmol, 219 mg | Cl.Cl.N[C@H]1CN2CCC1CC2
product | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-2-(diethoxymethyl)-1-benzofuran-6-carboxamide hydrochloride | 286 mg, 70% | Cl.N12C[C@@H](C(CC1)CC2)NC(=O)C2=CC1=C(C=C(O1)C(OCC)OCC)C=C2 | InChI=1S/C21H28N2O4.ClH/c1-3-25-21(26-4-2)19-11-15-5-6-16(12-18(15)27-19)20(24)22-17-13-23-9-7-14(17)8-10-23;/h5-6,11-12,14,17,21H,3-4,7-10,13H2,1-2H3,(H,22,24);1H/t17-;/m0./s1
